US08293925B2
Synthesis of 3-cyclopentyl-1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid (3,5-bis-trifluoromethylphenyl)amide
n-BuLi (2.5 M solution in hexanes, 456 μL, 1.14 mmol) was added to a solution of 3,5-bis-trifluoromethylaniline (177 μL, 0.1.14 mmol) in THF (3 mL) at room temperature. The resulting dark brown colored solution was stirred for 10 min at room temperature. A solution of 3-cyclopentyl-1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (prepared from step a, 120 mg, 0.38 mmol) in THF (2 mL) was added and stirred for 2 h at 70° C. The reaction mixture was then purified by automated flash chromatography. Pure fractions were combined and concentrated under reduced pressure. The material was recrystallized from MeOH to obtain the desired product 3-cyclopentyl-1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide (60 mg, 31% yield) as white crystals. LC-MS: Rt (retention time): 3.32 min, MS: (ES) m/z 513.2 (M+H+). 1H NMR (400 MHz, CDCl3) δ 8.4 (s, 1H), 8.05 (s, 2H), 7.6 (s, 1H), 7.08-7.13 (m, 2H), 7.02-7.06 (m, 2H), 4.14 (d, 1H, J=11.5 Hz), 3.56 (d, 1H, J=11.5 Hz) 3.17 (d, 1H, J=16.9 Hz), 2.74 (d, 1H, J=16.9 Hz), 2.42-2.52 (m, 1H), 2.2 (s, 3H), 2.14 (s, 3H), 1.75-1.88 (m, 2H), 1.6-1.68 (m, 4H), 1.25-1.48 (m, 2H).

reactant | n-BuLi | 1.14 mmol, 2.5 M, 456 μL | [Li]CCCC
reactant | 3,5-bis-trifluoromethylaniline | 177 μL | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | 3-cyclopentyl-1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)C1CCCC1 | C19H25NO3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-cyclopentyl-1-(2,6-dimethylphenyl)-5-oxo-pyrrolidine-3-carboxylic acid (3,5-bis-trifluoromethyl-phenyl)-amide | 60 mg, 31% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)C1CCCC1)(F)F | C26H26F6N2O2
